US09062044B2
Step C: (1S,6R)-Benzyl 3-(4,6-dimethylpyrimidin-2-yl)-3,8-diazabicyclo[4.2.0]octane-8-carboxylate.
To (1S,6R)-benzyl 3,8-diazabicyclo[4.2.0]octane-8-carboxylate (2.5 g, 6.9 mmol) and 2-chloro-4,6-dimethylpyrimidine (980 mg, 6.9 mmol) in DMF (35 mL) was added Cs2CO3 (9.0 g, 27.6 mmol). The reaction flask was heated to 100° C. until starting materials were consumed, cooled to rt, diluted with EtOAc and washed with H2O. The aqueous layer was back-extracted with EtOAc (1×). The combined organics were washed with brine and dried (Na2SO4) to give an oil. Purification via silica gel (15-75% EtOAc in hexanes) gave 1.6 g (63%) of the title compound as a clear oil. MS (ESI) mass calcd. C20H24N4O2, 352.44; m/z found 353.2 [M+H]+.

reactant | (1S,6R)-benzyl 3,8-diazabicyclo[4.2.0]octane-8-carboxylate | 6.9 mmol, 2.5 g | [C@H]12CNCC[C@@H]2CN1C(=O)OCC1=CC=CC=C1 | C14H18N2O2
reactant | 2-chloro-4,6-dimethylpyrimidine | 6.9 mmol, 980 mg | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | Cs2CO3 | 27.6 mmol, 9.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | (1S,6R)-Benzyl 3-(4,6-dimethylpyrimidin-2-yl)-3,8-diazabicyclo[4.2.0]octane-8-carboxylate | 1.6 g, 63% | CC1=NC(=NC(=C1)C)N1C[C@H]2N(C[C@H]2CC1)C(=O)OCC1=CC=CC=C1 | C20H24N4O2
